US09233956B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 4 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (65 mg, 0.189 mmol) and benzenesulfonyl chloride (0.029 mL, 0.227 mmol), the title compound was obtained as an off white solid (60 mg, 65% yield). MS (ESI): 484 [M+H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.189 mmol, 65 mg | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | benzenesulfonyl chloride | 0.227 mmol, 0.029 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}benzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)F | C23H22FN5O2S2
